US09109001B2
S-(2-aminoethyl) 2,2-dimethylpropanethioate hydrochloride (E-4)
A solution of cysteamine hydrochloride (30.81 mmol) in pivaloyl chloride (10 mL) was heated to 100° C. during 15 minutes. The reaction mixture was allowed to cool down to room temperature and was triturated in Et2O. The mixture was filtered. The solid was washed with Et2O and then dissolved in DMF (50 mL and 5 drops of HCl) upon heating. After cooled down to room temperature, the mixture was precipitated with Et2O, filtered and washed with Et2O to give after drying under vacuum the expected compound as a white solid in 94% yield. 1H NMR (DMSO-d6, 400 MHz) δ (ppm) 1.19 (s, 9H), 2.88 (t, J=7.08 Hz, 2H), 3.05-3.08 (m, 2H), 8.30 (s, 3H).

reactant | cysteamine hydrochloride | 30.81 mmol | Cl.NCCS
reactant | pivaloyl chloride | 10 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | S-(2-aminoethyl) 2,2-dimethylpropanethioate hydrochloride | 94% yield | Cl.CC(C(SCCN)=O)(C)C | InChI=1S/C7H15NOS.ClH/c1-7(2,3)6(9)10-5-4-8;/h4-5,8H2,1-3H3;1H
